US07659268B2
N-(6-Chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (88 mg, 0.24 mmol) was dissolved in 1,2-dimethoxyethane (2.4 mL) in a reaction tube. Methyl 2,4-dimethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (110 mg, 0.36 mmol), aqueous 2 M sodium carbonate (0.24 mL), and (Ph3P)4Pd (14 mg, 0.012 mmol) were added and the reaction mixture was heated at 120° C. under N2 atmosphere for 2 h in the microwave. The resulting material was cooled to room temperature, filtered, dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (50-100% ethyl acetate in hexane) to yield methyl 3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)-2,4-dimethylbenzoate (36 mg, 30%). ESI-MS m/z calc. 494.2, found 495.5 (M+1)+. Retention time 2.18 minutes.

reactant | N-(6-Chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.24 mmol, 88 mg | ClC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C17H13ClF2N2O3
reactant | Methyl 2,4-dimethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.36 mmol, 110 mg | CC1=C(C(=O)OC)C=CC(=C1B1OC(C(O1)(C)C)(C)C)C | C16H23BO4
reactant | sodium carbonate | 2 M, 0.24 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2.4 mL | COCCOC | C4H10O2
catalyst | (Ph3P)4Pd | 0.012 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)-2,4-dimethylbenzoate | 36 mg, 30% | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C=2C(=C(C(=O)OC)C=CC2C)C)C)F | C27H24F2N2O5
